US07569326B2
Diphenyl sulfoxide, 40 g (0.2 mole), was dissolved in 400 g of dichloromethane, which was stirred under ice cooling. At a temperature below 20° C., 65 g (0.6 mole) of trimethylsilyl chloride was added dropwise to the solution, which was allowed to mature for 30 minutes at the temperature. Then, a Grignard reagent which had been prepared from 14.6 g (0.6 mole) of metallic magnesium, 67.5 g (0.6 mole) of chlorobenzene and 168 g of tetrahydrofuran (THF) was added dropwise at a temperature below 20° C. The reaction solution was allowed to mature for one hour, after which 50 g of water at a temperature below 20° C. was added to quench the reaction. To this solution, 150 g of water, 10 g of 12N hydrochloric acid, and 200 g of diethyl ether were further added. The water layer was separated and washed with 100 g of diethyl ether, yielding an aqueous solution of triphenylsulfonium chloride. The compound in aqueous solution form was used in the subsequent reaction without further isolation.

reactant | Diphenyl sulfoxide | C1(=CC=CC=C1)S(=O)C1=CC=CC=C1 | C12H10OS
reactant | trimethylsilyl chloride | 0.6 mole, 65 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | magnesium | 0.6 mole, 14.6 g | [Mg] | Mg
reactant | chlorobenzene | 0.6 mole, 67.5 g | ClC1=CC=CC=C1 | C6H5Cl
reactant | hydrochloric acid | 12N, 10 g | Cl | ClH
solvent | dichloromethane | 400 g | ClCCl | CH2Cl2
solvent | diethyl ether | 200 g | C(C)OCC | C4H10O
solvent | water | 150 g | O | H2O
solvent | water | 50 g | O | H2O
solvent | tetrahydrofuran | 168 g | O1CCCC1 | C4H8O
product | triphenylsulfonium chloride | [Cl-].C1(=CC=CC=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C18H15S.ClH/c1-4-10-16(11-5-1)19(17-12-6-2-7-13-17)18-14-8-3-9-15-18;/h1-15H;1H/q+1;/p-1
